US06197770B1
Preparation of 2-{[4′-Methoxy-(1,1′-biphenyl)-4-yl]-sulfonyl}-N-methyl-amino-6-methoxyhex-4-ynoic acid
Methyl 2-{[4′-Methoxy-(1,1′-biphenyl)-4-yl]-sulfonyl}-N-methyl-amino-6-methoxyhex-4-ynoate: The acid 51 (500 mg, 1.23 mmole) is dissolved in 20 mL of MeOH and treated with 8 mL of SOCl2. The resulting mixture is stirred at RT for 18 hr. and then evaporated. The residual solid is dissolved in 10 mL of dimethylacetamide and treated with methyl iodide (0.092 mL, 1.47 mmole) in the presence of 600 mg of Cs2CO3. The resulting mixture is stirred for 2 hr and then partitioned between EtOAc and H2O. The organic layer is washed with water and then brine, dried over MgSO4, filtered and evaporated to give a yellow oil. The title acid is prepared from compound 52b as described for compound 46f.

reactant | Methyl 2-{[4′-Methoxy-(1,1′-biphenyl)-4-yl]-sulfonyl}-N-methyl-amino-6-methoxyhex-4-ynoate | COC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)C(C(=O)OC)(CC#CCOC)NC | C22H25NO6S
reactant | SOCl2 | 8 mL | O=S(Cl)Cl | Cl2OS
reactant | methyl iodide | 1.47 mmole, 0.092 mL | CI | CH3I
reactant | Cs2CO3 | 600 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeOH | 20 mL | CO | CH4O
product | 2-{[4′-Methoxy-(1,1′-biphenyl)-4-yl]-sulfonyl}-N-methyl-amino-6-methoxyhex-4-ynoic acid | COC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)C(C(=O)O)(CC#CCOC)NC | C21H23NO6S
